US04607030
(c) 6-(N-Chloroacetylaminomethyl)-5-hydroxy-4-sulfamoylindane
33.8 g (0.1 mole) of 6-(N-chloroacetylaminomethyl)-5-hydroxy-4-chlorosulfonylindane are dissolved in a little acetone, and the solution is added dropwise to 50 ml of concentrated ammonia solution. The mixture is stirred for 30 minutes at room temperature and is diluted with water. The precipitate which is deposited is filtered off with suction and dissolved in acetone, and the solution is filtered and stirred into water again.

reactant | 6-(N-chloroacetylaminomethyl)-5-hydroxy-4-chlorosulfonylindane | 0.1 mole, 33.8 g | ClCC(=O)NCC1=C(C(=C2CCCC2=C1)S(=O)(=O)Cl)O | C12H13Cl2NO4S
reactant | ammonia | 50 ml | N | H3N
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 6-(N-Chloroacetylaminomethyl)-5-hydroxy-4-sulfamoylindane | ClCC(=O)NCC1=C(C(=C2CCCC2=C1)S(N)(=O)=O)O | C12H15ClN2O4S
